US06043368
Preparation of N-2-chlorobenzyl-1-methyl-2-(2-thienyl)ethylamine:
To a solution of 1-(2-thienyl)-2-propanol (14.4 g) and triethylamine (10.5 g) in 60 ml of toluene, a solution of p-toluensulfonylchloride (19.0 g) into 40 ml of toluene is added dropwise. The mixture is stirred for 24 hours. The precipitate of triethylamine HCl is removed by filtration and the filtrate is added dropwise to a solution of 2-chlorobenzylamine (28.3 g, 0.2 moles) into 100 ml of toluene at the reflux temperature over the course of 12-14 hours. The heating is continued for an additional 6 hours. Thereafter the mixture is cooled to 80° C., 200 ml of water is added, and the mixture is further cooled to room temperature. The organic phase is separated and acidified with 3 M hydrochloric acid. The resulting hydrochloride is collected by filtration and washed with acetone to yield, after drying, 16.4 g (61.7%) of N-2-chlorobenzyl-1-methyl-2-(2-thienyl)ethylamine HCl having a m.p. 164-165° C.

reactant | 1-(2-thienyl)-2-propanol | 14.4 g | S1C(=CC=C1)CC(C)O | C7H10OS
reactant | triethylamine | 10.5 g | C(C)N(CC)CC | C6H15N
reactant | p-toluensulfonylchloride | 19.0 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2-chlorobenzylamine | 0.2 moles, 28.3 g | ClC1=C(CN)C=CC=C1 | C7H8ClN
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 200 ml | O | H2O
product | N-2-chlorobenzyl-1-methyl-2-(2-thienyl)ethylamine | ClC1=C(CNC(CC=2SC=CC2)C)C=CC=C1 | C14H16ClNS
